US09226922B2
4-(Bromomethyl)-6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine (165 mg, 0.318 mmol) was dissolved in THF (4 mL), charged with NMO (112 mg, 0.954 mmol), and stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (10-50% EtOAc/hexanes) to give 6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbaldehyde. 1H NMR (500 MHz, CDCl3) δ 10.41 (s, 1H), 7.31 (m, 10H), 7.20 (m, 5H), 6.08 (s, 1H), 4.00 (s, 3H).

reactant | 4-(Bromomethyl)-6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.318 mmol, 165 mg | BrCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)Cl | C27H21BrClN3O
reactant | NMO | 0.954 mmol, 112 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine-4-carbaldehyde | ClC1=CC2=C(C(=N1)C=O)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C27H20ClN3O2
